### PR TITLE
Prove `enlarge_S'` (Proposition 18.17)

### LINKED ISSUE #1140: 1729: Complete induction step of enlarge_S'
Establish the derivation of [Proposition 18.16](https://teorth.github.io/equational_theories/blueprint/1729-chapter.html#enlarge-S) `enlarge_S'` from [Proposition 18.15](https://teorth.github.io/equational_theories/blueprint/1729-chapter.html#enlarge-S-induct) `enlarge_S'_induction`.  This should not require any knowledge about the proof of `enlarge_S'_induction`, and should proceed purely from the order structure on the free group `N`, in particular taking advantage of the `LocallyFiniteOrderBot` structure.

When done, place a \leanok in Proposition 18.16 (this is fine even if Proposition 18.15 is unformalized, as \leanok only signifies local completion of the proof, rather than global completion).

### PR DESCRIPTION
**Pull request by Aaron1011**
null

Closes #1140

### CODE REVIEW

File: equational_theories/ManuallyProved/Equation1729/MagmaConstruction.lean [hunk 1]
```diff
@@ -1152,7 +1152,23 @@ lemma enlarge_S'_induction {sol : PartialSolution} {x:N} (hind: ∀ y:N, y < x 
...
+  .
+    have h_z_parent := parent_lt z_one
+    obtain ⟨parent_sol, h_parent_sol, h_parent_z_in⟩ := hz (parent z) (h_z_parent)
+    have hind : ∀ y: N, y < z → y ∈ parent_sol.Dom_S' := by
+      intro y hy
+      have le_pred := PredOrder.le_pred_of_lt hy
+      exact parent_sol.axiom_S (parent z) y h_parent_z_in le_pred
+    obtain ⟨sol', hsol', z_sol'⟩ := enlarge_S'_induction hind
+    refine ⟨sol', ?_, z_sol'⟩
+    exact Preorder.le_trans sol parent_sol sol' h_parent_sol hsol'
```
Comment (pitmonticone) [inline equational_theories/ManuallyProved/Equation1729/MagmaConstruction.lean:1171]: Here is a slightly cleaned up and golfed version:

```suggestion
lemma enlarge_S' (sol : PartialSolution) (x : N) :
    ∃ sol', sol ≤ sol' ∧ x ∈ sol'.Dom_S' := by
  apply WellFoundedLT.induction x (fun z hz ↦ ?_)
  by_cases z_one: z = 1
  · exact enlarge_S'_induction (by simp [z_one, ← bot_eq_one])
  · obtain ⟨parent_sol, h_parent_sol, h_parent_z_in⟩ := hz (parent z) (parent_lt z_one)
    have hind : ∀ y: N, y < z → y ∈ parent_sol.Dom_S' :=
      fun y hy ↦ parent_sol.axiom_S (parent z) y h_parent_z_in <| PredOrder.le_pred_of_lt hy
    obtain ⟨sol', hsol', z_sol'⟩ := enlarge_S'_induction hind
    exact ⟨sol', Preorder.le_trans sol parent_sol sol' h_parent_sol hsol', z_sol'⟩
```

I have tested it locally so you can commit directly if you want.

**Review by pitmonticone — APPROVED** [review]
Thank you for your PR!

I have just left a suggestion with a few minor improvements.
